US06992087B2
Preparation of 5-methoxyindan-1-one oxime
Following the procedure for the preparation of (4E)-2,3-dihydro-4H-chromen-4-one oxime but substituting 5-methoxyindan-1-one and making non-critical variations provided the title compound as a oil: HRMS (EI) calcd for C10H11O2 177.0790, found 177.0783. Anal. Calcd for C10H11NO2: C, 67.78; H, 6.26; N, 7.90. Found: C, 67.73; H, 6.34; N, 7.77.

reactant | (4E)-2,3-dihydro-4H-chromen-4-one oxime | O1CC\C(\C2=CC=CC=C12)=N/O | C9H9NO2
reactant | 5-methoxyindan-1-one | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
product | 5-methoxyindan-1-one oxime | COC=1C=C2CCC(C2=CC1)=NO | C10H11NO2
